### PR TITLE
feat: add DTreeMap/TreeMap/TreeSet iterators and slices

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds iterators and slices for `DTreeMap`/`TreeMap`/`TreeSet` based on zippers and provides basic lemmas about them.

### CODE REVIEW

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 1]
```diff
@@ -104,24 +136,197 @@ def RxC_finite : FinitenessRelation (RxcIterator α β cmp) Id where
...
+          if (cmp k upper).isLE = true then
+            IterStep.yield { internalState := { iter := Zipper.prependMap t it, upper := upper } } ⟨k, v⟩
+          else IterStep.done, (sorry)⟩ := by
+  rw [Slice.iter_eq_toIteratorIter]
+  simp only [Ric.Sliceable.mkSlice, instSliceableRawRicSlice, RicSlice.Internal.iterM, ToIterator.iter_eq, IterM.toIter, Iter.step]
+  rw [step_rxcIterator_eq_match]
+  simp only [Iter.toIterM]
+  simp only [IterM.Step.toPure, IterStep.mapIterator, Id.run]
+  congr
+  split
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: This splits the goal at the *outer* `match` expression. In my experience, it's seldom helpful and complicates the situation. Unfortunately, `split` doesn't allow you to choose what to branch on, and I usually try to split on the inner `match` by using `cases` or `generalize`.

File: src/Std/Data/DTreeMap/Slice.lean [hunk 2]
```diff
@@ -104,24 +136,197 @@ def RxC_finite : FinitenessRelation (RxcIterator α β cmp) Id where
...
+    split at heq
+    any_goals trivial
+    split at heq
+    . contradiction
+    . rename_i heq2
+      simp [heq2]
+
+public theorem toList_rocSlice_eq_filter_toList {α β} {cmp : α → α → Ordering}
+    {t : DTreeMap.Raw α β cmp} (h : t.WF) {bound : α} :
+    t[*...=bound].toList = t.toList.filter (fun e => (cmp e.fst bound).isLE) := by
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Slice.lean]: It seems to me that `filter` makes things complicated because you need to do a lot of bookkeeping that all the tree maps and zippers are sorted correctly. I found it easier to first prove the lemma with `takeWhile`. After that, it remains to show that `t.toList.takeWhile _ = t.toList.filter _`, but I expect that to be much easier because it no longer mentions any slice or iterator.

You could approach the proof like this:

```lean
public theorem step_rxcIterator_eq_match {cmp : α → α → Ordering} {it : IterM (α := RxcIterator α β cmp) Id ((a : α) × β a)} :
    it.step = ⟨match it.internalState.iter with
    | Zipper.done => IterStep.done
    | Zipper.cons k v t z =>
      if (cmp k it.internalState.upper).isLE = true then
        IterStep.yield { internalState := { iter := Zipper.prependMap t z, upper := it.internalState.upper } } ⟨k, v⟩
      else IterStep.done,
    (by simp only [IterM.IsPlausibleStep, Iterator.IsPlausibleStep, RxcIterator.step]; split; all_goals (rename_i heq; simp only [heq]))⟩ := by
  simp [IterM.step, Iterator.step, RxcIterator.step]
  ext
  congr 1
  sorry

public theorem val_step_rxcIterator_eq_match {α β} [Ord α]
    {it : Iter (α := RxcIterator α β compare) (Sigma β)} :
    it.step.val =
        match it.internalState.iter with
        | Zipper.done => IterStep.done
        | Zipper.cons k v t it' =>
          if (compare k it.internalState.upper).isLE = true then
            IterStep.yield { internalState := { iter := Zipper.prependMap t it', upper := it.internalState.upper } } ⟨k, v⟩
          else IterStep.done := by
  rcases it with ⟨z, upper⟩
  rw [Iter.step]
  rw [step_rxcIterator_eq_match]
  simp only [Iter.toIterM]
  split
  · simp [IterM.Step.toPure, IterStep.mapIterator, Id.run]
  · split <;> simp [IterM.Step.toPure, IterStep.mapIterator, Id.run, IterM.toIter]

theorem toList_prependMap {α β} [Ord α] {t : Internal.Impl α β} {z : Zipper α β} :
    (Zipper.prependMap t z).toList = t.toList ++ z.toList := by
  sorry

public theorem toList_rxcIter {α β} {_ : Ord α}
    {z : Zipper α β} {bound : α} :
    (⟨RxcIterator.mk (cmp := compare) z bound⟩ : Iter (Sigma β)).toList =
      z.toList.takeWhile (fun e => (compare e.fst bound).isLE) := by
  rw [Iter.toList_eq_match_step]
  generalize hit : (⟨RxcIterator.mk (cmp := compare) z bound⟩ : Iter (Sigma β)).step.val = step
  rw [val_step_rxcIterator_eq_match] at hit
  simp only at hit
  split at hit <;> rename_i heq
  · simp [← hit, Zipper.toList]
  · split at hit
    · simp [← hit, Zipper.toList]
      rw [List.takeWhile_cons_of_pos ‹_›]
      simp
      rw [toList_rxcIter, toList_prependMap]
    · simp [← hit, Zipper.toList]
      rw [List.takeWhile_cons_of_neg ‹_›]
termination_by z.size
decreasing_by
  simp_all [Zipper.size, Zipper.prependMap_size]
```

(All these `val_step` and `step` lemmas aren't tidied up and I tend to give them better names and formulate them all consistently in terms of `Iter` or `IterM`, but it's at least a working approach.)

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 3]
```diff
@@ -512,6 +512,38 @@ def insertMany! [Ord α] {ρ : Type w} [ForIn Id ρ ((a : α) × β a)] (t : Imp
...
 
+/-!
+## Operations for verification of iterators and slices
+-/
+
+/--
+  Removes all elements with key less than or equal to `lower_bound`.
+  Does not modify size information stored in the tree.
+-/
+def prune_LE {α β} [Ord α] (t : Internal.Impl α β)
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Operations.lean]: According to the [naming convention](https://github.com/leanprover/lean4/blob/master/doc/std/naming.md), I think this should be called `pruneLE`. (I know this is only an early draft, so I'll refrain from more naming remarks!)

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 4]
```diff
@@ -512,6 +512,38 @@ def insertMany! [Ord α] {ρ : Type w} [ForIn Id ρ ((a : α) × β a)] (t : Imp
...
+    match compare lower_bound k with
+    | .lt => .inner sz k v (l.prune_LE (Internal.Impl.Ordered.left ord_t) lower_bound) r
+    | .eq => .inner sz k v .leaf r
+    | .gt => r.prune_LE (Internal.Impl.Ordered.right ord_t) lower_bound
+
+/--
+  Removes all elements with key less than to `lower_bound`.
+  Does not modify size information stored in the tree.
+-/
+def prune_LT {α β} [Ord α] (t : Internal.Impl α β)
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Operations.lean]: This should be called `pruneLT`.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 5]
```diff
@@ -0,0 +1,1152 @@
...
+          simp only [h2, ← h'.1, Zipper.prependMap_size, Zipper.size, Nat.add_lt_add_iff_right,
+            Nat.lt_add_left_iff_pos, Nat.lt_add_one]
+
+@[no_expose]
+public instance Zipper.instFinite : Finite (Zipper α β) Id :=
+  .of_finitenessRelation Zipper.instFinitenessRelation
+
+@[always_inline]
+public def Zipper.iter (t : Zipper α β) : Iter (α := Zipper α β) ((a : α) × β a) :=
+  ⟨t⟩
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: Are you actually planning to expose an API for `Zipper`, and do you expect people to use it directly? Or is it only used as the internal state of the iterators?

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 6]
```diff
@@ -0,0 +1,1152 @@
...
+      simp only [Iter.step, Iter.toIterM, Id.run, IterM.step, Iterator.step, Zipper.step,
+        IterM.Step.toPure_yield, PlausibleIterStep.yield, IterM.toIter, IterStep.yield.injEq,
+        Iter.mk.injEq, Sigma.mk.injEq]
+      simp_all
+
+public theorem Zipper.toList_Zipper {α β}
+    {z : Zipper α β}:
+    (⟨z⟩ : Iter (Sigma β)).toList =
+      z.toList := by
+  rw [Iter.toList_eq_match_step]
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: If you like, you might enjoy using `induction it using Iter.inductSteps` (where `it` is the iterator) instead of doing the termination proof again by hand. `inductSteps` uses the finiteness proof.

File: src/Std/Data/DTreeMap/Raw/Slice.lean [hunk 7]
```diff
@@ -0,0 +1,100 @@
...
+namespace Std.DTreeMap.Raw
+open Std.Iterators
+
+public instance {α : Type u} {β : α → Type v}
+    (cmp : α → α → Ordering := by exact compare) :
+    Rii.Sliceable (Raw α β cmp) α (Internal.RiiSlice α β) where
+  mkSlice carrier range := ⟨carrier.inner, range⟩
+
+public theorem Rii.correct {α : Type u} {β : α → Type v} [Ord α] {t : Raw α β compare} : t[*...*].toList = t.toList := by
+  apply Internal.Rii.correct
```
Comment (datokrat) [inline src/Std/Data/DTreeMap/Raw/Slice.lean]: How about calling these `toList_rii`, `toList_ric` etc.?

File: src/Std/Data/DTreeMap/Internal/Def.lean [hunk 8]
```diff
@@ -78,4 +78,11 @@ def toListModel : Impl α β → List ((a : α) × β a)
 @[simp] theorem toListModel_inner {sz k v l r} :
   (.inner sz k v l r : Impl α β).toListModel = l.toListModel ++ ⟨k, v⟩ :: r.toListModel := rfl
 
+/--
+  Computes the size of the tree. Used for verification of iterators.
+-/
+def treeSize : Internal.Impl α β → Nat
+| .leaf => 0
+| .inner _ _ _ l r => 1 + l.treeSize + treeSize r
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Def.lean]:
```suggestion
  | .leaf => 0
  | .inner _ _ _ l r => 1 + l.treeSize + treeSize r
```
(see style guide)

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 9]
```diff
@@ -512,6 +512,38 @@ def insertMany! [Ord α] {ρ : Type w} [ForIn Id ρ ((a : α) × β a)] (t : Imp
     r := ⟨r.val.insert! a b, fun h₀ h₁ => h₁ _ _ _ (r.2 h₀ h₁)⟩
   return r
 
+/-!
+## Operations for verification of iterators and slices
+-/
+
+/--
+  Removes all elements with key less than or equal to `lower_bound`.
+  Does not modify size information stored in the tree.
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Operations.lean]:
```suggestion
Removes all elements with key less than or equal to `lower_bound`.

Does not modify size information stored in the tree.
```
(cf. documentation style guide)

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 10]
```diff
@@ -512,6 +512,38 @@ def insertMany! [Ord α] {ρ : Type w} [ForIn Id ρ ((a : α) × β a)] (t : Imp
...
+-/
+def prune_LE {α β} [Ord α] (t : Internal.Impl α β)
+    (ord_t : t.Ordered) (lower_bound : α) : Internal.Impl α β :=
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Operations.lean]: If looks like you're not actually using the `ord_t` hypothesis in this definition, so it should be fine to remove it here and just assume it in the theorems where it is used.

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 11]
```diff
@@ -512,6 +512,38 @@ def insertMany! [Ord α] {ρ : Type w} [ForIn Id ρ ((a : α) × β a)] (t : Imp
     r := ⟨r.val.insert! a b, fun h₀ h₁ => h₁ _ _ _ (r.2 h₀ h₁)⟩
   return r
 
+/-!
+## Operations for verification of iterators and slices
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Operations.lean]: This file is upstream of `DTreeMap.Basic` and as such it is close to the critical path of our build. Everything that is not needed to power the functionality of `DTreeMap.Basic` should not live upstream of that file. Even though these definitions are probably quite cheap, please move them somewhere closter to where they are used in the verification (potentially there is no good home for them right now, in which case it is perfectly fine to create a new file to house them).

File: src/Std/Data/DTreeMap/Iterator.lean [hunk 12]
```diff
@@ -0,0 +1,34 @@
...
+-/
+module
+
+prelude
+public import Std.Data.DTreeMap.Raw.Iterator
+namespace Std.DTreeMap
+open Std.Iterators
+
+@[inline]
+public def iter {α : Type u} {β : α → Type v} [Ord α] (m : DTreeMap α β) :=
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Iterator.lean]: Please add a docstring for all the user-facing `def`s you add.

File: src/Std/Data/DTreeMap/Raw/Slice.lean (hunk 7 above)
Comment (TwoFX) [reply src/Std/Data/DTreeMap/Raw/Slice.lean]: And they should also be `simp` lemmas (at least the ones which do not need `WF` parameters, for example all of the ones in the non-`Raw` file).

File: src/Std/Data/DTreeMap/Raw/Slice.lean [hunk 13]
```diff
@@ -0,0 +1,100 @@
...
+  t[*...<bound].toList = t.toList.filter (fun e => (compare e.fst bound).isLT) := by
+  apply Internal.Rio.correct
+  . exact wf.out.ordered
+
+public instance {α : Type u} {β : α → Type v} [Ord α] (cmp : α → α → Ordering := by exact compare) :
+    Rci.Sliceable (Raw α β cmp) α (Internal.RciSlice α β) where
+  mkSlice carrier range := ⟨carrier.inner, range⟩
+
+public theorem Rci.correct {α : Type u} {β : α → Type v} [Ord α] [TransOrd α] {t : Raw α β compare} {wf : t.WF} {bound : α} :
+  t[bound...*].toList = t.toList.filter (fun e => (compare e.fst bound).isGE) := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Raw/Slice.lean]:
```suggestion
    t[bound...*].toList = t.toList.filter (fun e => (compare e.fst bound).isGE) := by
```
(cf. style guide)

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 14]
```diff
@@ -0,0 +1,1152 @@
...
+
+prelude
+public import Std.Data.Iterators.Lemmas.Producers.Slice
+public import Init.Data.Slice
+public import Std.Data.DTreeMap.Internal.Lemmas
+
+namespace Std.DTreeMap.Internal
+open Std.Iterators
+
+section Zipper
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean:161]: Please leave space around commands like `section` and `variable`, it makes the code easier to read.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 15]
```diff
@@ -0,0 +1,1152 @@
...
+
+def Zipper.size : Zipper α β → Nat
+| .done => 0
+| .cons _ _ tree next => 1 + tree.treeSize + next.size
+
+public def Zipper.prependMap : Impl α β → Zipper α β → Zipper α β
+  | .leaf, it => it
+  | .inner _ k v l r, it => prependMap l (.cons k v r it)
+
+public def Zipper.prependMapGE [Ord α] (t : Impl α β) (lower_bound : α)
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: Please use `lowerCamelCase` for arguments which are data, like `lower_bound`. This makes it easier to tell at a glance that this is data and not a proof.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 16]
```diff
@@ -0,0 +1,1152 @@
...
+      . intro e mem
+        apply TransCmp.lt_of_eq_of_lt heq
+        apply Impl.Ordered.compare_right ord_t
+        rw [← Impl.toList_eq_toListModel]
+        exact mem
+    case gt =>
+      simp
+      apply r_ih
+
+public theorem Zipper.prependMap_toList_eq_concat_toList (t : Impl α β)
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: As per the naming convention, this should be called `toList_prependMap_eq_append` or just `toList_prependMap` would also be fine.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 17]
```diff
@@ -0,0 +1,1152 @@
...
+    simp only [prependMap, Impl.toList_eq_toListModel, Impl.toListModel_leaf,
+      List.nil_append]
+  case inner _ k v l r l_ih r_ih =>
+    simp only [Zipper.prependMap]
+    specialize l_ih (Zipper.cons k v r it)
+    rw [l_ih]
+    simp only [Impl.toList_eq_toListModel, toList, List.cons_append,
+      Impl.toListModel_inner, List.append_assoc]
+
+public theorem Zipper.prependMap_done_toList_eq_toList (t : Impl α β) : (Zipper.prependMap t .done).toList = t.toList := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: `toList_prependMap_done`.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 18]
```diff
@@ -0,0 +1,1152 @@
...
+  simp [Zipper.prependMap_toList_eq_concat_toList, Zipper.toList]
+
+theorem Zipper.prependMap_invariant [Ord α] [TransOrd α] {t : Impl α β}
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
theorem Zipper.ordered_prependMap [Ord α] [TransOrd α] {t : Impl α β}
```

File: src/Std/Data/DTreeMap/Raw/Slice.lean [hunk 19]
```diff
@@ -0,0 +1,100 @@
...
+  mkSlice carrier range := ⟨carrier.inner, range⟩
+
+public theorem Rii.correct {α : Type u} {β : α → Type v} [Ord α] {t : Raw α β compare} : t[*...*].toList = t.toList := by
+  apply Internal.Rii.correct
+
+public instance {α : Type u} {β : α → Type v} [Ord α] (cmp : α → α → Ordering := by exact compare) :
+    Ric.Sliceable (Raw α β cmp) α (Internal.RicSlice α β) where
+  mkSlice carrier range := ⟨carrier.inner, range⟩
+
+public theorem Ric.correct {α : Type u} {β : α → Type v} [Ord α] [TransOrd α] {t : Raw α β compare} {wf : t.WF} {bound : α} :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Raw/Slice.lean]: There seems to be some confusion around the `Ord` instances and `cmp` functions here. It doesn't make sense to assume both `Ord` and take an explicit `cmp` function as an argument. I think this should be

```suggestion
public instance {α : Type u} {β : α → Type v} (cmp : α → α → Ordering) :
    Ric.Sliceable (Raw α β cmp) α (Internal.RicSlice α β) where
  mkSlice carrier range := ⟨carrier.inner, range⟩

public theorem Ric.correct {α : Type u} {β : α → Type v} (cmp : α → α → Ordering) [TransCmp cmp] {t : Raw α β cmp} {wf : t.WF} {bound : α} :
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 20]
```diff
@@ -0,0 +1,1152 @@
...
+    case cons k v tree next =>
+      simp only [Zipper.iter]
+
+public theorem Zipper.val_step_Zipper_eq_match {α β}
+    {it : Iter (α := Zipper α β) (Sigma β)} :
+    it.step.val =
+        match it.internalState.iter with
+        | ⟨Zipper.done⟩ => IterStep.done
+        | ⟨Zipper.cons k v t it'⟩ =>
+            IterStep.yield { internalState := Zipper.prependMap t it'  } ⟨k, v⟩
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
            IterStep.yield { internalState := Zipper.prependMap t it' } ⟨k, v⟩
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 21]
```diff
@@ -0,0 +1,1152 @@
...
+      rw [heq2] at heq
+      simp only [Zipper.iter, Iter.mk.injEq] at heq
+      rw [heq]
+      rw [← heq2]
+      conv =>
+        rhs
+        rw [toList_Zipper]
+      simp only [Iter.toList_map, Zipper.toList, List.cons_append, List.map_cons]
+      simp only [← Zipper.prependMap_toList_eq_concat_toList, List.cons.injEq, true_and]
+      rw [←toList_map_Zipper]
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
      rw [← toList_map_Zipper]
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 22]
```diff
@@ -0,0 +1,1152 @@
...
+  subrelation {it it'} h := by
+    simp [IterM.IsPlausibleSkipSuccessorOf, IterM.IsPlausibleStep, Iterator.IsPlausibleStep] at h
+    have := @Zipper.step_eq_match α β ⟨it.1⟩
+    simp [IterM.step, Iterator.step] at this
+    injections val_eq
+    rw [h] at val_eq
+    split at val_eq <;> contradiction
+
+@[no_expose]
+public instance instProductive : Productive (Zipper α β) Id :=
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: This should not be needed, it should follow from the `Finite` instance.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 23]
```diff
@@ -0,0 +1,1152 @@
...
+      rename_i k_eq v_eq tree_eq next_eq
+      simp only [Iter.step, Iter.toIterM, Id.run, IterM.step, Iterator.step, Zipper.step,
+        IterM.Step.toPure_yield, PlausibleIterStep.yield, IterM.toIter, IterStep.yield.injEq,
+        Iter.mk.injEq, Sigma.mk.injEq]
+      simp_all
+
+public theorem Zipper.toList_Zipper {α β}
+    {z : Zipper α β}:
+    (⟨z⟩ : Iter (Sigma β)).toList =
+      z.toList := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: I would state this
```suggestion
public theorem Zipper.toList_iter {α β} {z : Zipper α β}: z.iter.toList = z.toList := by
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 24]
```diff
@@ -0,0 +1,1152 @@
...
+  generalize heq : it.step = x
+  have := @val_step_Zipper_eq_match _ _ it
+  rcases x with ⟨val, prop⟩
+  simp [heq] at this
+  split at this <;> (rename_i heq2 ; simp [heq2, this])
+
+public theorem Zipper.toList_map_Zipper {α β γ} {f : (a : α) × β a → γ}
+    {z : Zipper α β}:
+    ((⟨z⟩ : Iter (Sigma β)).map f).toList =
+      (z.toList).map f := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: This entire lemma should not be needed, since it's just the combination of the general `Iter.toList_map` lemma and the `toList_Zipper` lemma you have above.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 25]
```diff
@@ -0,0 +1,1152 @@
...
+    simp only [Zipper.size]
+    induction t
+    case leaf =>
+      simp only [Zipper.prependMap, Impl.treeSize, Nat.add_zero, Nat.lt_add_left_iff_pos,
+        Nat.lt_add_one]
+    case inner =>
+      simp only [Zipper.prependMap_size, Impl.treeSize, Nat.add_lt_add_iff_right, Nat.lt_add_left_iff_pos,
+        Nat.lt_add_one]
+
+public theorem Zipper.iter_of_tree_internal_state_eq {m : Impl α β} :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
public theorem Zipper.internatState_iter_of_tree {m : Impl α β} :
```
except that `iter_of_tree` should be called `Zipper.iterOfTree`. I'll stop with the naming comments now, I'm sure you get the idea. Just stick to [the naming convention](https://github.com/leanprover/lean4/blob/master/doc/std/naming.md).

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 26]
```diff
@@ -0,0 +1,1152 @@
...
+
+public def RxcIterator.step [Ord α] : RxcIterator α β → IterStep (IterM (α := RxcIterator α β) Id ((a : α) × β a)) ((a : α) × β a)
+  | ⟨.done, _⟩ => .done
+  | ⟨.cons k v t it, upper⟩ =>
+    if (compare k upper).isLE then
+      .yield ⟨it.prependMap t, upper⟩ ⟨k, v⟩
+    else
+      .done
+
+public instance [Ord α]: Iterator (RxcIterator α β) Id ((a : α) × β a) where
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
public instance [Ord α] : Iterator (RxcIterator α β) Id ((a : α) × β a) where
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean (hunk 24 above)
Comment (wkrozowski) [reply src/Std/Data/DTreeMap/Internal/Zipper.lean]: Thanks! Just replaced it with a simpler lemma that combines the lemmas that you mentioned.

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 4b0e8d88ce9cbeaa18fe074704a988fc5a79cdef --onto 3a42ee0c3060e2a8365927d205ead5990366053d`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-28 14:21:13)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 4b0e8d88ce9cbeaa18fe074704a988fc5a79cdef --onto 106b0fa661d96fd1fa6ff96e2ee5f55f23f307f2`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-30 15:28:22)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 4b0e8d88ce9cbeaa18fe074704a988fc5a79cdef --onto 705084d9ba258dec704af428d7ce2444525f9ffb`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-30 22:37:05)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 4b0e8d88ce9cbeaa18fe074704a988fc5a79cdef --onto 1ce05b2a179eac8a902995c0caddc609c0169c49`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-31 17:27:50)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 4b0e8d88ce9cbeaa18fe074704a988fc5a79cdef --onto d47b474e41e4b134239ef70fa3c15778cc771bcf`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-10 15:16:11)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 4b0e8d88ce9cbeaa18fe074704a988fc5a79cdef --onto 838be605acfeeb39186a9af2f56376f2a7fe2246`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-11-11 14:26:55)

File: src/Std/Data/DTreeMap/Internal/Operations.lean [hunk 27]
```diff
@@ -512,6 +512,10 @@ def insertMany! [Ord α] {ρ : Type w} [ForIn Id ρ ((a : α) × β a)] (t : Imp
...
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Operations.lean]: I guess this comment can also be removed now.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 28]
```diff
@@ -0,0 +1,1250 @@
...
+def pruneLT {α β} [Ord α] (t : Internal.Impl α β) (lowerBound : α) : Internal.Impl α β :=
+  match t with
+  | .leaf => .leaf
+  | .inner sz k v l r =>
+    match compare lowerBound k with
+    | .lt => .inner sz k v (l.pruneLT lowerBound) r
+    | .eq => r
+    | .gt => r.pruneLT lowerBound
+
+theorem pruneLE_eq_filter {α β} [Ord α] [TransOrd α] (t : Internal.Impl α β) (ord_t : t.Ordered) (lowerBound : α) :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: `toList_pruneLE`

File: src/Std/Data/DTreeMap/Iterator.lean [hunk 29]
```diff
@@ -0,0 +1,76 @@
...
+* `Finite` instance: always
+* `Productive` instance: always
+-/
+@[inline]
+public def valuesIter {α : Type u} {β : Type u} (cmp : α → α → Ordering := by exact compare)
+    (m : DTreeMap α (fun _ => β) cmp) :=
+  Raw.valuesIter cmp ⟨m.inner⟩
+
+@[simp]
+public theorem iter_toList {cmp : α → α → Ordering} (m : DTreeMap α β cmp) :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Iterator.lean]: `toList_iter`

File: src/Std/Data/DTreeMap/Raw/Iterator.lean [hunk 30]
```diff
@@ -0,0 +1,91 @@
...
+The key and value types must live in the same universe.
+
+**Termination properties:**
+
+* `Finite` instance: always
+* `Productive` instance: always
+-/
+@[inline]
+public def keysIter {α : Type u} {β : α → Type u}
+  (cmp : α → α → Ordering := by exact compare) (m : Raw α β cmp) :=
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Raw/Iterator.lean]:
```suggestion
    (cmp : α → α → Ordering := by exact compare) (m : Raw α β cmp) :=
```

File: src/Std/Data/DTreeMap/Raw/Slice.lean [hunk 31]
```diff
@@ -0,0 +1,107 @@
...
+  mkSlice carrier range := ⟨carrier.inner, range⟩
+
+@[simp] public theorem toList_rii {α : Type u} {β : α → Type v}
+    (cmp : α → α → Ordering := by exact compare) {t : Raw α β cmp} :
+    t[*...*].toList = t.toList := by
+  apply Internal.toList_rii
+
+public instance {α : Type u} {β : α → Type v} (cmp : α → α → Ordering := by exact compare) :
+    Ric.Sliceable (Raw α β cmp) α (@Internal.RicSlice α β ⟨cmp⟩) :=
+  letI _ : Ord α := ⟨cmp⟩;⟨fun carrier range => ⟨carrier.inner, range⟩⟩
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Raw/Slice.lean]:
```suggestion
  letI _ : Ord α := ⟨cmp⟩; ⟨fun carrier range => ⟨carrier.inner, range⟩⟩
```

File: src/Std/Data/TreeMap/Raw/Iterator.lean [hunk 32]
```diff
@@ -0,0 +1,81 @@
...
+
+@[simp]
+public theorem keysIter_toList {α β} {cmp : α → α → Ordering} (m : Raw α β cmp) :
+    (m.keysIter cmp).toList = m.keys :=
+  DTreeMap.Raw.keysIter_toList m.inner
+
+@[simp]
+public theorem valuesIter_toList {α β} {cmp : α → α → Ordering} (m : Raw α β cmp) :
+    (m.valuesIter cmp).toList = m.values :=
+  DTreeMap.Raw.valuesIter_toList m.inner
```
Comment (TwoFX) [inline src/Std/Data/TreeMap/Raw/Iterator.lean:80]:
```suggestion
  DTreeMap.Raw.valuesIter_toList m.inner

```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 33]
```diff
@@ -0,0 +1,1250 @@
...
+      intro a mem
+      apply Ordering.isGE_of_eq_gt
+      apply TransCmp.gt_trans ?_ heq
+      rw [OrientedOrd.eq_swap, Ordering.swap_eq_gt]
+      exact Internal.Impl.Ordered.compare_right ord_t mem
+    case eq =>
+      simp only [toListModel_inner, toListModel_leaf, List.nil_append, List.filter]
+      rw [OrientedCmp.eq_comm] at heq
+      simp only [heq, Ordering.isGE_eq]
+      suffices new_goal : List.filter (fun e => (compare e.fst lowerBound).isGE) l.toListModel = [] from by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
      suffices new_goal : List.filter (fun e => (compare e.fst lowerBound).isGE) l.toListModel = [] by
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 34]
```diff
@@ -0,0 +1,1250 @@
...
+    (it : Zipper α β) : Zipper α β :=
+  match t with
+  | .leaf => it
+  | .inner _ k v l r =>
+    match compare lowerBound k with
+    | .lt => prependMapGT l lowerBound (Zipper.cons k v r it)
+    | .eq => prependMapGT r lowerBound it
+    | .gt => prependMapGT r lowerBound it
+
+theorem Zipper.prependMap_of_pruneLE_eq_prependMapGE [Ord α] (t : Impl α β) (ord_t : t.Ordered)
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
theorem Zipper.prependMap_pruneLE_eq_prependMapGE [Ord α] (t : Impl α β) (ord_t : t.Ordered)
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 35]
```diff
@@ -0,0 +1,1250 @@
...
+    rw [l_ih]
+    simp only [Impl.toList_eq_toListModel, toList, List.cons_append,
+      Impl.toListModel_inner, List.append_assoc]
+
+theorem Zipper.toList_prependMap_of_done (t : Impl α β) : (Zipper.prependMap t .done).toList = t.toList := by
+  simp [Zipper.toList_prependMap_eq_append, Zipper.toList]
+
+theorem Zipper.ordered_prependMap [Ord α] [TransOrd α] {t : Impl α β}
+    {ord_t : t.Ordered} {z : Zipper α β} {ord_z : z.Ordered}
+    (hyp : ∀ k ∈ z.toList, ∀ k' ∈ t.toListModel, compare k'.1 k.1 = .lt ) :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
    (hyp : ∀ k ∈ z.toList, ∀ k' ∈ t.toListModel, compare k'.1 k.1 = .lt) :
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 36]
```diff
@@ -0,0 +1,1250 @@
...
+  simp only [toList, List.not_mem_nil, false_implies, implies_true]
+
+theorem Zipper.ordered_of_cons_ordered [Ord α] [TransOrd α] {t : Impl α β}
+    {z : Zipper α β} : (Zipper.cons k v t z).Ordered → z.Ordered := by
+  intro hyp
+  simp only [Zipper.Ordered, Zipper.toList] at hyp
+  simp only [Ordered]
+  exact List.Pairwise.sublist (List.sublist_append_right (⟨k, v⟩ :: t.toList) z.toList) hyp
+
+theorem Zipper.prependMap_size_eq (t : Impl α β) (it : Zipper α β) :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
theorem Zipper.size_prependMap (t : Impl α β) (it : Zipper α β) :
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 37]
```diff
@@ -0,0 +1,1250 @@
...
+
+theorem Zipper.ordered_prependMap_done [Ord α] [TransOrd α] {t : Impl α β}
+    {ord_t : t.Ordered} :
+    (Zipper.prependMap t .done).Ordered := by
+  apply ordered_prependMap
+  . exact ord_t
+  . simp only [Ordered, toList, List.Pairwise.nil]
+  simp only [toList, List.not_mem_nil, false_implies, implies_true]
+
+theorem Zipper.ordered_of_cons_ordered [Ord α] [TransOrd α] {t : Impl α β}
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
theorem Zipper.ordered_of_ordered_cons [Ord α] [TransOrd α] {t : Impl α β}
```
or, to be able to use dot notation:
```suggestion
theorem Zipper.Ordered.cons [Ord α] [TransOrd α] {t : Impl α β}
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 38]
```diff
@@ -0,0 +1,1250 @@
...
+  | .cons k v t it=>
+      .yield ⟨it.prependMap t⟩ ⟨k, v⟩
+
+public instance : Iterator (Zipper α β) Id ((a : α) × β a) where
+  IsPlausibleStep it step := it.internalState.step = step
+  step it := ⟨it.internalState.step, rfl⟩
+
+public instance : IteratorCollect (Zipper α β) Id Id := .defaultImplementation
+
+public instance : IteratorCollectPartial (Zipper α β) Id Id := .defaultImplementation
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: This should not be necessary because you give the `Finite` instance below.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 39]
```diff
@@ -0,0 +1,1250 @@
...
+
+open Std.Iterators
+
+section Zipper
+
+public inductive Zipper (α : Type u) (β : α → Type v) where
+  | done
+  | cons (k : α) (v : β k) (tree : Impl α β) (next : Zipper α β)
+
+variable {α : Type u} {β : α → Type v}
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean:167]:
```suggestion
variable {α : Type u} {β : α → Type v}

```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 40]
```diff
@@ -0,0 +1,1250 @@
...
+      . intro hyp₂
+        apply Or.elim hyp₂
+        . intro in_r
+          apply TransCmp.lt_trans
+          . exact Impl.Ordered.compare_left ord_t mem₂
+          . rw [Impl.toList_eq_toListModel] at in_r
+            exact Impl.Ordered.compare_right ord_t in_r
+        . intro in_z
+          apply hyp k₁ in_z k₂
+          simp only [Impl.toListModel_inner, List.mem_append, mem₂, List.mem_cons, true_or]
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: Always try to reuse previous work :)

```suggestion
  rw [Ordered, toList_prependMap_eq_append, List.pairwise_append]
  refine ⟨by rwa [Impl.toList_eq_toListModel], ord_z, ?_⟩
  exact fun a ha b hb => hyp _ hb _ (Impl.toList_eq_toListModel ▸ ha)
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 41]
```diff
@@ -0,0 +1,1250 @@
...
+
+public instance : Iterator (Zipper α β) Id ((a : α) × β a) where
+  IsPlausibleStep it step := it.internalState.step = step
+  step it := ⟨it.internalState.step, rfl⟩
+
+public instance : IteratorCollect (Zipper α β) Id Id := .defaultImplementation
+
+public instance : IteratorCollectPartial (Zipper α β) Id Id := .defaultImplementation
+
+def Zipper.instFinitenessRelation : FinitenessRelation (Zipper α β) Id where
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: `FinitenessRelation` is not a class, so why do you use `inst` in the name?

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 42]
```diff
@@ -0,0 +1,1250 @@
...
+  fun_induction Zipper.prependMap
+  case case1 =>
+   simp only [Impl.treeSize, Nat.zero_add]
+  case case2 size k v l r it ih =>
+    simp only [ih, Zipper.size, Impl.treeSize, ← Nat.add_assoc, Nat.add_comm]
+
+public def Zipper.step : Zipper α β → IterStep (IterM (α := Zipper α β) Id ((a : α) × β a)) ((a : α) × β a)
+  | .done => .done
+  | .cons k v t it=>
+      .yield ⟨it.prependMap t⟩ ⟨k, v⟩
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
  | .cons k v t it =>
    .yield ⟨it.prependMap t⟩ ⟨k, v⟩
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 43]
```diff
@@ -0,0 +1,1250 @@
...
+    case h_2 k v tree next x k v t it' heq =>
+      simp only [Zipper.iter] at heq
+      injections
+      rename_i k_eq v_eq tree_eq next_eq
+      simp only [Iter.step, Iter.toIterM, Id.run, IterM.step, Iterator.step, Zipper.step,
+        IterM.Step.toPure_yield, PlausibleIterStep.yield, IterM.toIter, IterStep.yield.injEq,
+        Iter.mk.injEq, Sigma.mk.injEq]
+      simp_all
+
+theorem Zipper.toList_iter {α β} {z : Zipper α β}: z.iter.toList = z.toList := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
theorem Zipper.toList_iter {α β} {z : Zipper α β} : z.iter.toList = z.toList := by
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 44]
```diff
@@ -0,0 +1,1250 @@
...
+        := by
+  rcases it with ⟨z, upper⟩
+  rw [Iter.step]
+  rw [Zipper.step_eq_match]
+  simp only [Iter.toIterM]
+  split
+  · simp only [IterM.Step.toPure, IterStep.mapIterator, Id.run, Zipper.iter]
+  · rename_i heq
+    simp only [Zipper.iter, Iter.mk.injEq, reduceCtorEq] at heq
+  . split
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: Took me a while to notice, but please use the center dot everywhere.
```suggestion
  · split
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 45]
```diff
@@ -0,0 +1,1250 @@
...
+  simp only [Zipper.size]
+  induction t
+  case leaf =>
+    simp only [Zipper.prependMap, Impl.treeSize, Nat.add_zero, Nat.lt_add_left_iff_pos,
+      Nat.lt_add_one]
+  case inner =>
+    simp only [Zipper.prependMap_size_eq, Impl.treeSize, Nat.add_lt_add_iff_right, Nat.lt_add_left_iff_pos,
+      Nat.lt_add_one]
+
+public theorem Zipper.iterOfTree_toList_eq_toList (t : Impl α β) :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: `Zipper.toList.iterOfTree`

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 46]
```diff
@@ -0,0 +1,1250 @@
...
+  rw [this]
+  simp only [Zipper.toList_prependMap_eq_append, toList, List.append_nil]
+
+public theorem Zipper.map_iterOfTree_eq_tree_toList_map (t : Impl α β) :
+   (Iter.map f (Internal.Zipper.iterOfTree t)).toList = List.map f t.toList := by
+  rw [Iter.toList_map]
+  congr
+  unfold iterOfTree
+  rw [@toList_iter α β (prependMap t .done)]
+  simp [Zipper.toList_prependMap_eq_append, toList]
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
  rw [Iter.toList_map, iterOfTree_toList_eq_toList]
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 47]
```diff
@@ -0,0 +1,1250 @@
...
+public theorem Zipper.iterOfTree_toList_eq_toList (t : Impl α β) :
+    (Zipper.iterOfTree t).toList = t.toList := by
+  unfold iterOfTree
+  unfold iter
+  have := @Zipper.toList_iter α β (prependMap t .done)
+  simp only [iter] at this
+  rw [this]
+  simp only [Zipper.toList_prependMap_eq_append, toList, List.append_nil]
+
+public theorem Zipper.map_iterOfTree_eq_tree_toList_map (t : Impl α β) :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: I think this theorem is unused, and either way it seems to be a trivial combination of existing things where it's not immediately clear why it should exist as a standalone theorem.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 48]
```diff
@@ -0,0 +1,1250 @@
...
+      Nat.lt_add_one]
+
+public theorem Zipper.iterOfTree_toList_eq_toList (t : Impl α β) :
+    (Zipper.iterOfTree t).toList = t.toList := by
+  unfold iterOfTree
+  unfold iter
+  have := @Zipper.toList_iter α β (prependMap t .done)
+  simp only [iter] at this
+  rw [this]
+  simp only [Zipper.toList_prependMap_eq_append, toList, List.append_nil]
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: We rarely use `unfold` in the standard library codebase, we just unfold using `rw` or `simp`.
```suggestion
  rw [iterOfTree, toList_iter, Zipper.toList_prependMap_of_done]
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 49]
```diff
@@ -0,0 +1,1250 @@
...
+    simp only [prependMap, Impl.toList_eq_toListModel, Impl.toListModel_leaf,
+      List.nil_append]
+  case inner _ k v l r l_ih r_ih =>
+    simp only [Zipper.prependMap]
+    specialize l_ih (Zipper.cons k v r it)
+    rw [l_ih]
+    simp only [Impl.toList_eq_toListModel, toList, List.cons_append,
+      Impl.toListModel_inner, List.append_assoc]
+
+theorem Zipper.toList_prependMap_of_done (t : Impl α β) : (Zipper.prependMap t .done).toList = t.toList := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: `toList_prependMap_done`.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 50]
```diff
@@ -0,0 +1,1250 @@
...
+
+public theorem Zipper.map_iterOfTree_eq_tree_toList_map (t : Impl α β) :
+   (Iter.map f (Internal.Zipper.iterOfTree t)).toList = List.map f t.toList := by
+  rw [Iter.toList_map]
+  congr
+  unfold iterOfTree
+  rw [@toList_iter α β (prependMap t .done)]
+  simp [Zipper.toList_prependMap_eq_append, toList]
+
+theorem Zipper.val_step_map_Zipper_eq_match {α β γ} {f : (a : α) × β a → γ}
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: Same here, I hope this lemma can just be removed.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 51]
```diff
@@ -0,0 +1,1250 @@
...
+    else
+      .done
+
+public instance [Ord α] : Iterator (RxcIterator α β) Id ((a : α) × β a) where
+  IsPlausibleStep it step := it.internalState.step = step
+  step it := ⟨it.internalState.step, rfl⟩
+
+public instance [Ord α] : IteratorCollect (RxcIterator α β) Id Id := .defaultImplementation
+
+public instance [Ord α] : IteratorCollectPartial (RxcIterator α β) Id Id := .defaultImplementation
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: Again, this should not be needed.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 52]
```diff
@@ -0,0 +1,1250 @@
...
+  simp only [Zipper.iter, Iter.mk.injEq] at heq
+  rw [heq]
+  simp only [Zipper.size]
+  induction t
+  case leaf =>
+    simp only [Zipper.prependMap, Impl.treeSize, Nat.add_zero, Nat.lt_add_left_iff_pos,
+      Nat.lt_add_one]
+  case inner =>
+    simp only [Zipper.prependMap_size_eq, Impl.treeSize, Nat.add_lt_add_iff_right, Nat.lt_add_left_iff_pos,
+      Nat.lt_add_one]
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: If you add the following API lemmas:
```lean
@[simp]
theorem Zipper.toList_done : (done : Zipper α β).toList = [] := rfl

@[simp]
theorem Zipper.toList_cons : (cons k v tree next).toList = ⟨k, v⟩ :: tree.toList ++ next.toList := rfl

@[simp]
theorem Zipper.step_done : (done : Zipper α β).step = .done := rfl

@[simp]
theorem Zipper.step_cons : (cons k v t it : Zipper α β).step = .yield ⟨it.prependMap t⟩ ⟨k, v⟩ := rfl

@[simp]
theorem Zipper.val_run_step_toIterM_iter {z : Zipper α β} : z.iter.toIterM.step.run.val = z.step := rfl

theorem Zipper.eq_toIterM_iter (it : IterM (α := Zipper α β) Id ((a : α) × β a)) :
    it = it.internalState.iter.toIterM := rfl

@[simp]
theorem Zipper.size_cons : (cons k v t it : Zipper α β).size = 1 + t.treeSize + it.size := rfl
```

Then a simpler proof is possible:
```suggestion
theorem Zipper.toList_iter {α β} {z : Zipper α β} : z.iter.toList = z.toList := by
  rw [Iter.toList_eq_toList_toIterM, IterM.toList_eq_match_step]
  simp only [bind_pure_comp, Id.run_bind, val_run_step_toIterM_iter]
  cases z with
  | done => simp
  | cons k v t it' =>
    simp only [step_cons, Id.run_map, toList_cons, List.cons_append, List.cons.injEq, true_and]
    rw [eq_toIterM_iter ⟨prependMap _ _⟩]
    simp only
    rw [← Iter.toList_eq_toList_toIterM, toList_iter, toList_prependMap_eq_append]
termination_by z.size
decreasing_by simp [prependMap_size_eq]
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean (hunk 51 above)
Comment (wkrozowski) [reply src/Std/Data/DTreeMap/Internal/Zipper.lean]: Hmm, if I delete these, then lemmas like 'toList_rxoIter' start failing.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean (hunk 47 above)
Comment (wkrozowski) [reply src/Std/Data/DTreeMap/Internal/Zipper.lean]: It is used in `DTreeMap/Raw/Iter`

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 53]
```diff
@@ -0,0 +1,1713 @@
...
+      exact Internal.Impl.Ordered.compare_right ord_t mem
+    case eq =>
+      simp only [List.filter]
+      rw [OrientedCmp.eq_comm] at heq
+      rw [heq]
+      suffices new_goal : List.filter (fun e => (compare e.fst lowerBound).isGT) l.toListModel = [] ∧
+          List.filter (fun e => (compare e.fst lowerBound).isGT) r.toListModel = r.toListModel by
+        simp only [new_goal, Ordering.isGT_eq, List.nil_append]
+      apply And.intro
+      . rw [List.filter_eq_nil_iff]
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: Took me  a while to notice this, but in the standard library we always use `·` to focus goals, never `.`.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 54]
```diff
@@ -0,0 +1,1713 @@
...
+  | done => simp
+  | cons k v t it' =>
+    simp only [step_cons, Id.run_map, toList_cons, List.cons_append, List.cons.injEq, true_and]
+    rw [eq_toIterM_iter ⟨prependMap _ _⟩]
+    simp only
+    rw [← Iter.toList_eq_toList_toIterM, toList_iter, toList_prependMap_eq_append]
+termination_by z.size
+decreasing_by simp [size_prependMap]
+
+public theorem Zipper.toList.iterOfTree (t : Impl α β) :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: Sorry, I made a typo in my last suggestion, the right name is `Zipper.toList_iterOfTree`. Feel free to call me out if I make bad suggestions ;) Also, let me know if the naming convention isn't clear.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean (hunk 47 above)
Comment (TwoFX) [reply src/Std/Data/DTreeMap/Internal/Zipper.lean]: Let's just inline the proof there then, and delete this lemma.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean (hunk 51 above)
Comment (TwoFX) [reply src/Std/Data/DTreeMap/Internal/Zipper.lean]: I cannot reproduce this. If I delete all of the `IteratorCollectPartial` instances, the proofs still go through as before.

File: src/Std/Data/DTreeMap/Iterator.lean (hunk 29 above)
Comment (TwoFX) [reply src/Std/Data/DTreeMap/Iterator.lean]: Unresolving because the name is still not correct.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 55]
```diff
@@ -0,0 +1,1713 @@
...
+
+@[no_expose]
+public instance Rxo.instFinite [Ord α] : Finite (RxoIterator α β) Id :=
+  .of_finitenessRelation RxoIterator.instFinitenessRelation
+
+@[simp]
+theorem RxoIterator.step_done [Ord α] {upper : α} : ({iter := .done, upper := upper } : RxoIterator α β).step = .done := rfl
+
+@[simp]
+theorem RxoIterator.step_cons_of_LT [Ord α] {upper : α} {h : (compare k upper).isLT} : ({iter := (.cons k v t it), upper := upper } : RxoIterator α β).step = .yield ⟨it.prependMap t, upper⟩ ⟨k,v⟩ := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: This should be called `step_cons_of_isLT`.

Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]:
```suggestion
theorem RxoIterator.step_cons_of_LT [Ord α] {upper : α} {h : (compare k upper).isLT} : ({ iter := (.cons k v t it), upper := upper } : RxoIterator α β).step = .yield ⟨it.prependMap t, upper⟩ ⟨k,v⟩ := by
```

File: src/Std/Data/TreeMap/Slice.lean [hunk 56]
```diff
@@ -0,0 +1,111 @@
...
+    t.toList.filter (fun e => (cmp e.fst lowerBound).isGE ∧ (cmp e.fst upperBound).isLE) :=
+  @DTreeMap.Internal.Const.toList_rcc α β ⟨cmp⟩ _ t.inner.inner (@t.inner.wf.ordered α (fun _ => β) ⟨cmp⟩ _) lowerBound upperBound
+
+public instance {α : Type u} {β : Type v} (cmp : α → α → Ordering := by exact compare) :
+    Roi.Sliceable (TreeMap α β cmp) α (@DTreeMap.Internal.Const.RoiSlice α β ⟨cmp⟩) :=
+  letI _ : Ord α := ⟨cmp⟩; ⟨fun carrier range => ⟨carrier.inner.inner, range⟩⟩
+
+@[simp] public theorem toList_roi {α : Type u} {β : Type v}
+    (cmp : α → α → Ordering := by exact compare) [TransCmp cmp]
+    {t : TreeMap α β cmp} {bound : α} :t[bound<...*].toList =
```
Comment (TwoFX) [inline src/Std/Data/TreeMap/Slice.lean]:
```suggestion
    {t : TreeMap α β cmp} {bound : α} : t[bound<...*].toList =
```

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 57]
```diff
@@ -0,0 +1,1704 @@
...
+public import Std.Data.DTreeMap.Internal.Lemmas
+
+namespace Std.DTreeMap.Internal
+
+namespace Impl
+
+/--
+  Removes all elements with key less than or equal to `lowerBound`.
+
+  Does not modify size information stored in the tree.
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: As per the documentation style guide:
```suggestion
Removes all elements with key less than or equal to `lowerBound`.

Does not modify size information stored in the tree.
```
(also elsewhere)

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 58]
```diff
@@ -0,0 +1,1704 @@
...
+      List.takeWhile_cons_of_neg]
+    · simp only [@RxcIterator.step_cons_of_LE _ _ k v t it' _ bound heq, Id.run_map,
+      Zipper.toList_cons, List.cons_append, heq, List.takeWhile_cons_of_pos, List.cons.injEq,
+      true_and]
+      rw [← eq_toIterM_iter, ← Iter.toList_eq_toList_toIterM, toList_rxcIter, Zipper.toList_prependMap_eq_append]
+termination_by z.size
+decreasing_by
+  simp_all [Zipper.size_prependMap]
+
+theorem toList_eq_takeWhile_list {α : Type u} {β : α → Type v} [Ord α] [TransOrd α] {bound : α} {l : List ((a : α) × β a)}
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: This looks more like a `takeWhile_eq_filter` to me.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 59]
```diff
@@ -0,0 +1,1704 @@
...
+        simp_all
+        intro a mem
+        have := l_ordered.1 a mem
+        rw [← Ordering.swap_eq_gt] at this
+        apply TransCmp.gt_of_gt_of_gt
+        · rw [← OrientedOrd.eq_swap] at this
+          · exact this
+        · exact heq
+
+public theorem toList_eq_takeWhile {α β} [Ord α] [TransOrd α] {z : Zipper α β} {bound : α} {z_ord : z.Ordered} :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: `takeWhile_toList`.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 60]
```diff
@@ -0,0 +1,1704 @@
...
+        exact l_ordered.2
+      case false =>
+        simp_all
+        intro a mem
+        have := l_ordered.1 a mem
+        rw [← Ordering.swap_eq_gt] at this
+        apply TransCmp.gt_of_gt_of_gt
+        · rw [← OrientedOrd.eq_swap] at this
+          · exact this
+        · exact heq
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: I would do it like this:
```suggestion
theorem List.takeWhile_eq_filter_of_pairwise {α : Type u} {p : α → Bool} {l : List α}
    (h : l.Pairwise (fun a b => p a = false → p b = false)) : l.takeWhile p = l.filter p := by
  induction l with
  | nil => simp
  | cons a l ih =>
    rw [List.takeWhile_cons, List.filter_cons]
    split <;> rename_i ha
    · rw [ih h.tail]
    · rw [eq_comm, List.filter_eq_nil_iff]
      exact fun b hb => by simpa using List.rel_of_pairwise_cons h hb (Bool.not_eq_true _ ▸ ha)

theorem toList_eq_takeWhile_list {α : Type u} {β : α → Type v} [Ord α] [TransOrd α] {bound : α}
    {l : List ((a : α) × β a)}
    {l_ordered : l.Pairwise (fun a b => compare a.1 b.1 = .lt)} :
    l.takeWhile (fun e => (compare e.fst bound).isLE) = l.filter (fun e => (compare e.fst bound).isLE) := by
  refine List.takeWhile_eq_filter_of_pairwise (l_ordered.imp (fun {a b} h₁ h₂ => ?_))
  simp only [Ordering.isLE_eq_false] at *
  exact TransCmp.gt_of_gt_of_gt (OrientedCmp.gt_of_lt h₁) h₂
```

This way you can reuse most of the proof in the similar lemma below.

File: src/Std/Data/DTreeMap/Internal/Zipper.lean [hunk 61]
```diff
@@ -0,0 +1,1704 @@
...
+  rw [← List.filter_map]
+  congr
+  rw [Impl.Const.toList_eq_toListModel_map, Impl.toList_eq_toListModel]
+
+end Const
+
+section Roo
+
+@[always_inline]
+public def RooIterator [Ord α] (t : Impl α β) (lowerBound : α) (upperBound : α)  : Iter (α := RxoIterator α β) ((a : α) × β a) :=
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Zipper.lean]: This is not a type, so its name should not start with a capital letter.
```suggestion
public def rooIterator [Ord α] (t : Impl α β) (lowerBound : α) (upperBound : α) : Iter (α := RxoIterator α β) ((a : α) × β a) :=
```

File: src/Std/Data/DTreeMap/Raw/Slice.lean [hunk 62]
```diff
@@ -0,0 +1,107 @@
...
+    (cmp : α → α → Ordering := by exact compare) {t : Raw α β cmp} :
+    t[*...*].toList = t.toList := by
+  apply Internal.toList_rii
+
+public instance {α : Type u} {β : α → Type v} (cmp : α → α → Ordering := by exact compare) :
+    Ric.Sliceable (Raw α β cmp) α (@Internal.RicSlice α β ⟨cmp⟩) :=
+  letI _ : Ord α := ⟨cmp⟩; ⟨fun carrier range => ⟨carrier.inner, range⟩⟩
+
+public theorem toList_ric {α : Type u} {β : α → Type v} (cmp : α → α → Ordering := by exact compare)
+    [TransCmp cmp] {t : Raw α β cmp} {wf : t.WF} {bound : α} :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Raw/Slice.lean]: I think the `wf` argument should be explicit, otherwise it seems to me that the theorem would be needlessly difficult to apply.

File: src/Std/Data/TreeMap/Slice.lean [hunk 63]
```diff
@@ -0,0 +1,111 @@
...
+Authors: Wojciech Różowski
+-/
+module
+
+prelude
+public import Std.Data.TreeMap.Raw.Slice
+public import Std.Data.TreeMap.Basic
+
+/-!
+This module provides slice notation for `TreeMap` slices and implements an iterator
```
Comment (TwoFX) [inline src/Std/Data/TreeMap/Slice.lean:13]: At the moment the situation is this:
```lean
example : t[1<...<3].toList = t.toList.filter (fun p => compare p.1 1 = .gt && compare p.1 3 = .lt) := by
  simp -- this works

example : t[1<...<3].iter.toList = t.toList.filter (fun p => compare p.1 1 = .gt && compare p.1 3 = .lt) := by
  simp -- this fails at the moment
```

This is slightly regrettable, but it seems that the solution here would be to make the reverse of `Std.Slice.toList_eq_toList_iter` into a `simp` lemma which is independent of this PR. I will discuss with Paul.

File: src/Std/Data/TreeSet/Iterator.lean [hunk 64]
```diff
@@ -0,0 +1,39 @@
...
+
+/-!
+# Iterators on `DTreeMap`
+-/
+
+namespace Std.TreeSet
+open Std.Iterators
+
+/--
+Returns a finite iterator over the entries of a tree setz.
```
Comment (TwoFX) [inline src/Std/Data/TreeSet/Iterator.lean]:
```suggestion
Returns a finite iterator over the entries of a tree set.
```
